US06337331B1
3-(2-Fluorophenyl)-6-phenyl-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (77 mg, 0.25 mmol), triphenylphosphine (165 mg, 0.63 mmol) and (1-methyl-1H-1,2,4-triazol-3-yl)methanol (80 mg, 0.63 mmol) were suspended in dry tetrahydrofuran (1.5 ml). Diethyl azodicarboxylate (100 μl, 0.63 mmol) was added and a solution resulted immediately. The reaction was stirred at room temperature for 48 hours before purification by preparative tlc (40% EtOAc/hexanes) to give a white solid which was recrystallised from ethyl acetate/hexanes to afford 3-(2-fluorophenyl)-5-(1-methyl-1H-1,2,4-triazol-3-ylmethoxy)-6-phenyl-1,2,3-triazolo[1,5-α]pyrimidine (49 mg, 49%) as white needles, m.p. 170-171° C.; δH (400 MHz, d6-DMSO) 3.84 (3H, s, NCH3), 5.57 (2H, s, OCH2), 7.35-7.41 (2H, m, ArH), 7.43-7.51 (4H, m, ArH), 7.73 (2H, dd, J=8.1 and 1.8 Hz, ArH), 8.14 (1H, td, J=7.5 and 1.8 Hz, ArH), 8.45 (1H, s, triazole CH), 9.51 (1H, s, pyrimidine CH); m/z (ES+) 402 (M+H+).

reactant | 3-(2-Fluorophenyl)-6-phenyl-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 0.25 mmol, 77 mg | FC1=C(C=CC=C1)C=1N=NN2C1NC(C(=C2)C2=CC=CC=C2)=O | C17H11FN4O
reactant | triphenylphosphine | 0.63 mmol, 165 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (1-methyl-1H-1,2,4-triazol-3-yl)methanol | 0.63 mmol, 80 mg | CN1N=C(N=C1)CO | C4H7N3O
reactant | Diethyl azodicarboxylate | 0.63 mmol, 100 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 3-(2-fluorophenyl)-5-(1-methyl-1H-1,2,4-triazol-3-ylmethoxy)-6-phenyl-1,2,3-triazolo[1,5-α]pyrimidine | 49 mg, 49% | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C(=C2)C2=CC=CC=C2)OCC2=NN(C=N2)C | C21H16FN7O
